US06100272
1'-Allyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
This was prepared from 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E18) and allyl bromide using a similar procedure to Example 19, except that DMF was used as solvent in place of ethanol. This gave the title compound as a white foam (11%) which was converted to its hydrochloride salt, crystallising from acetone as a white solid.

reactant | 5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C32H33N3O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1'-Allyl-5-[2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carbonyl]-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 11% | C(C=C)N1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)N1C(CCC1)=O)C | C35H37N3O3
